US05227531
158.5 g (1 mol) of a mixture of 56% of 4-chloro-2-fluoro-benzaldehyde and 44% of 2-chloro-4-fluorobenzaldehyde were heated together with 700 g of sulfolane and 75 g (1.29 mol) of potassium fluoride at 215° C. for 10 h. The working up was carried out as in Example 1. 99.5 g of 2,4-difluorobenzaldehyde equivalent to 70% of the feed-stock was obtained.

reactant | 4-chloro-2-fluoro-benzaldehyde | ClC1=CC(=C(C=O)C=C1)F | C7H4ClFO
reactant | 2-chloro-4-fluorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | sulfolane | 700 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | potassium fluoride | 1.29 mol, 75 g | [F-].[K+]
product | 2,4-difluorobenzaldehyde | 99.5 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
